US06689800B2
Preparation of Intermediate (R)-3-(2-Bromo-1-(tert-butyl-dimethyl-silanyl)-ethyl)-pyridine (l-2):
To a stirred solution of 1.54 g (7.61 mmol) of (R)-2-bromo-1-pyridin-3-yl-ethanol l-1 in 20 ml of dry N,N-dimethylformamide at room temperature was added 1.55 g (22.83 mmol) of imidazole followed by 1.72 g (11.4 mmol) of tert-butyldimethylsilyl chloride. The mixture was stirred at room temperature for about 18 hours and then an additional 1.55 g (22.83 mmol) of imidazole and 1.72 g (11.4 mmol) of tert-butyldimethylsilyl chloride were added, and the mixture was stirred at room temperature for about an additional 24 hours. The mixture was poured into 200 ml of water and extracted with ethyl acetate (2×200 ml). The organic extracts were combined, washed successively with water (1×40 ml), brine (1×40 ml), then dried over magnesium sulfate and concentrated in vacuo to furnish an oil. Chromatography on silica gel eluting with ethyl acetate:hexanes (2:3, v/v) provided 1.41 g (58% yield) of the desired title compound as a clear oil, αD=−51.5° (c=0.60, chloroform). Chiral HPLC analysis of the product on 4.6×250 mm Chiralcel® OD column (Chiral Technologies; Exton, Pa.) eluting with hexanes:isopropyl alcohol (7:3, v/v) at 1.0 ml/minute revealed an enantiomeric excess of 91.3%.

reactant | (R)-2-bromo-1-pyridin-3-yl-ethanol | 7.61 mmol, 1.54 g | BrC[C@H](O)C=1C=NC=CC1 | C7H8BrNO
reactant | imidazole | 22.83 mmol, 1.55 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 11.4 mmol, 1.72 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 22.83 mmol, 1.55 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 11.4 mmol, 1.72 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | 200 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (R)-3-(2-Bromo-1-(tert-butyl-dimethyl-silanyl)-ethyl)-pyridine | 1.41 g, 58% yield | BrC[C@H]([Si](C)(C)C(C)(C)C)C=1C=NC=CC1 | C13H22BrNSi
